US03983245
N-t-Butylazetidine-3-carboxylic acid (5.0 g., 0.318 mol.) was added portionwise to a slurry of 1.81 g. (0.0477 mol.) of lithium aluminum hydride in 135 ml. of tetrahydrofuran. The mixture was refluxed for 12 hours, cooled and 2 ml. of water and 2 ml. of 15% aqueous sodium hydroxide were added followed by an additional 6 ml. of water. The mixture was filtered and the precipitate was washed with ether. The filtrate and washings were combined and evaporated to dryness to give N-t-butyl-3-hydroxymethylazetidine, b.p. 124°-127° (27 mm.).

reactant | N-t-Butylazetidine-3-carboxylic acid | 0.318 mol, 5.0 g | C(C)(C)(C)N1CC(C1)C(=O)O | C8H15NO2
reactant | lithium aluminum hydride | 0.0477 mol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | N-t-butyl-3-hydroxymethylazetidine | C(C)(C)(C)N1CC(C1)CO | C8H17NO
